US05034410
To a -10° C., mechanically-stirred solution of aniline (21 g) and ammonium thiocyanate (52.1 g) in methanol (230 mL) was added a solution of bromine (38.7 g) in sodium bromide-saturated methanol. The rate of addition was adjusted such that the temperature of the reaction mixture did not rise above 0° C. After the addition was complete, the reaction mixture was stirred for one hour. The reaction mixture was then poured into a mixture of water (one liter), saturated aqueous sodium bicarbonate (500 mL) and ether (500 mL). The reaction mixture was then stirred for one hour and the phases separated. The organic phase was washed with brine, dried over magnesium sulfate and concentrated to yield an oil, which solidified upon trituration with hexane. The resulting solid was filtered and washed with hexane to afford 30.5 g of 4-thiocyanoaniline. Condensation of 4-thiocyanoaniline (5.7 g) with cyanoacetic acid, as described in Preparation 1, afforded 5.1 g of the title compound, α-cyano-4-thiocyanoacetanilide; m.p. 165°-166° C.

reactant | aniline | 21 g | NC1=CC=CC=C1 | C6H7N
reactant | ammonium thiocyanate | 52.1 g | [S-]C#N.[NH4+]
reactant | bromine | 38.7 g | BrBr | Br2
reactant | sodium bicarbonate | 500 mL | C([O-])(O)=O.[Na+]
solvent | methanol | 230 mL | CO | CH4O
solvent | sodium bromide | [Br-].[Na+]
solvent | hexane | CCCCCC | C6H14
solvent | ether | 500 mL | CCOCC | C4H10O
solvent | water | one liter | O | H2O
product | 4-thiocyanoaniline | 30.5 g | S(C#N)C1=CC=C(N)C=C1 | C7H6N2S
